US04220658
1-(2,6-dichlorophenyl-N-methylamidino)-3-(t-butyl)urea
To a mixture of 10.9 g (0.05 mole) of 1-(2,6-dichlorophenyl)-1-methylguanidine and 10 ml xylene is added 5 g of t-butylisocyanate (0.05 mole) and the mixture is refluxed for 2 hours. The reaction product is cooled, triturated with heptane and filtered. Recrystallization from 1:1 isopropanol/water results in 1-(2,6-dichlorophenyl-N-methylamidino)-3-(t-butyl)urea.

reactant | 1-(2,6-dichlorophenyl)-1-methylguanidine | 0.05 mole, 10.9 g | ClC1=C(C(=CC=C1)Cl)N(C(=N)N)C | C8H9Cl2N3
reactant | t-butylisocyanate | 0.05 mole, 5 g | C(C)(C)(C)N=C=O | C5H9NO
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2,6-dichlorophenyl-N-methylamidino)-3-(t-butyl)urea | ClC1=C(C(=CC=C1)Cl)N(C(=N)NC(=O)NC(C)(C)C)C | C13H18Cl2N4O
